US04112095
A solution of 52.3 g. of α-(α,α,α-trifluoro-p-tolyl)-4-morpholineacetonitrile in 500 ml. of dry tetrahydrofuran is stirred at ambient temperature while 1 ml. portions of 30% potassium hydroxide in ethanol and 25 ml. portions of ethyl acrylate is added every half hour until a total of 5 ml. of the base and 150 ml. of ethyl acrylate is added. After the addition, the mixture is stirred at ambient temperature for 48 hours. Following filtration, the filtrate is concentrated, dissolved in methylene chloride, passed through magnesol and recrystallized from methylene chloride/hexane to afford ethyl γ-cyano-γ(α,α,α-trifluoro-p-tolyl)-4-morpholinebutyrate as cream colored crystals, m.p. 96° -97° C.

reactant | α-(α,α,α-trifluoro-p-tolyl)-4-morpholineacetonitrile | FC(C1=CC=C(C=C1)C(C#N)N1CCOCC1)(F)F | C13H13F3N2O
reactant | tetrahydrofuran | O1CCCC1 | C4H8O
reactant | potassium hydroxide | [OH-].[K+]
reactant | ethyl acrylate | C(C=C)(=O)OCC | C5H8O2
solvent | ethanol | C(C)O | C2H6O
product | ethyl γ-cyano-γ(α,α,α-trifluoro-p-tolyl)-4-morpholinebutyrate | C(#N)C(CCC(=O)OCC)(N1CCOCC1)C1=CC=C(C=C1)C(F)(F)F | C18H21F3N2O3
